US06670373B1
In a fashion similar to that for preparation 15, 2,6-difluorobenzoylchloride oxime (1.00 g, 5.19 mmol), methyl-2-butynoate (1.01 g, 10.4 mmol), triethyl amine (0.94 ml, 6.8 mmol) in diethyl ether (3 ml), and diethyl ether (25 ml) afforded 4-methoxycarbonyl-5-methyl-3-(2,6-difluorophenyl)isoxazole (0.80 g, 61%) after purification by column chromatography (silica gel, hexanes/diethyl ether gradient).

reactant | 2,6-difluorobenzoylchloride oxime | 5.19 mmol, 1.00 g | FC1=C(C(Cl)=NO)C(=CC=C1)F | C7H4ClF2NO
reactant | methyl-2-butynoate | 10.4 mmol, 1.01 g | COC(C#CC)=O | C5H6O2
reactant | triethyl amine | 6.8 mmol, 0.94 ml | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 3 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
product | 4-methoxycarbonyl-5-methyl-3-(2,6-difluorophenyl)isoxazole | 0.80 g, 61% | COC(=O)C=1C(=NOC1C)C1=C(C=CC=C1F)F | C12H9F2NO3
